Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][O:2]/[C:3]=[C:4](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:5],2.8464599706
[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[H:12],4.02767044874
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7](=[C:8][H:9])[C:11]([H:12])([H:13])[H:14],5.01387233888
[C:1].[C:2](#[C:3][O:4][H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[C:1]=[C:2]([C:3][O:4][H:5])[C:6]([H:7])([H:8])[O:9][H:10],-3.22286743246
[H:7].[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:8]([H:9])([H:10])[O:11][H:12]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],-4.09979005767
[H:1][O:2][C:3]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3],5.235546305380001
[H:11].[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.471180104609999
[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7],5.668447111569999
[H:1][O:2][C:3]1[C:4][O:5][C@:6]1([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11],0.201262798349
[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1],7.604830005860001
[H:1][O:2][C@:3]([H:4])([C:5][O:6][C:7][H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][O:2][C@:3]([H:4])([C:5][O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.4060653941800005
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:7]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.40027108775
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:8]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-3.75343012876
[C:4]([H:5])[H:6].[H:1][C:2]([H:3])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12],-4.62631569208
[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:5]([H:6])[H:7].[H:1][O:2][C:3](=[C:4])[C:8]([H:9])([H:10])[H:11],7.79999723359
[H:13].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11][H:12]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13],-5.15305361366
[O:1]=[C:2][C:11]([H:12])([H:13])[H:14].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.3826913222
[C:1][O:2][C:3]#[C:4]>>[C:1].[O:2][C:3][C:4],3.29338827195
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13].[H:1][C:2]=[O:3],0.77652896471
[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6]/[O:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]1[C:3][C:4]([H:5])=[C:6]1[O:7][C:8]([H:9])([H:10])[H:11],0.88534137469
[O:1]=[C:2]([H:3])[C@:4]([H:5])([O:6][H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[O:6][H:7],2.59092227977
[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.67213853356
[H:18].[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.56167372625
[H:1]/[C:2]([C:3]([H:4])([H:5])[H:6])=[C:7](/[H:8])[O:10][C:11]=[C:12]([H:13])[H:14].[H:9]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]=[C:12]([H:13])[H:14],-1.8715515626900003
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15],-1.0701053541
[H:1][C:2]([H:3])[O:4][C:5]([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][C:2]([H:3])[O:4][C:5]([H:6])[C:7][O:8][C:9]([H:10])[H:11],4.07128465892
